US03971819
A. 4-anilino-3-nitro-5-sulphamyl-benzoic acid
A mixture of 4-chloro-3-nitro-5-sulphamyl-benzoic acid (8.4 g), aniline (8.4 g), and water (40 ml) was stirred at 80°C for 2 hours. After the addition of 1N hydrochloric acid (50 ml) and cooling, the precipitated 4-anilino-3-nitro-5-sulphamyl-benzoic acid was collected by suction, washed with water, and recrystallized from aqueous ethanol. The melting point was 261°-262°C.

reactant | 4-chloro-3-nitro-5-sulphamyl-benzoic acid | 8.4 g | ClC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)[N+](=O)[O-] | C7H5ClN2O6S
reactant | aniline | 8.4 g | NC1=CC=CC=C1 | C6H7N
reactant | hydrochloric acid | 1N, 50 ml | Cl | ClH
solvent | water | 40 ml | O | H2O
product | 4-anilino-3-nitro-5-sulphamyl-benzoic acid | N(C1=CC=CC=C1)C1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)[N+](=O)[O-] | C13H11N3O6S
